US06777418B2
To a solution of 5.3 g (17.5 mmol) of 2,2,4,4,7,9,9-heptamethyl-3a,4,9,9a-tetrahydro-naphtho[2,3-d][1,3]-cis-dioxole-6-carbaldehyde and 5.9 g (22.8 mmol) of 4-(Dimethoxy-phosphorylmethyl)-benzoic acid methyl ester in 50 ml of toluene at 0° was added 13.4 ml of 1.7 M (22.2 mmol) potassium-tert-pentyl ate. After 1 h, the reaction was poured into brine, extracted with ethyl acetate, washed with brine, dried over sodium sulfate and adsorbed onto silica gel. The product was purified by flash chromatography (gradient elution: hexane-15% ethyl acetate/hexane) to afford 6.0 g (79%) of 4-[(E)-2-(2,2,4,4,7,9,9)-heptamethyl-3a,4,9,9a-tetrahydro-naphtho[2,3d][1,3]-cis-dioxol-6-yl)-vinyl]-benzoic acid methyl ester.

reactant | 4-(Dimethoxy-phosphorylmethyl)-benzoic acid methyl ester | 22.8 mmol, 5.9 g | COC(C1=CC=C(C=C1)CP(=O)(OC)OC)=O | C11H15O5P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | benzoic acid methyl ester | COC(C1=CC=CC=C1)=O | C8H8O2
